US08133901B2
(R)-6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid{1-[5-(2-chloro-phenyl)-2-methyl-thiazole-4-carbonyl]-piperidin-3-yl}-amide
prepared by reaction of 5-(2-chloro-phenyl)-2-methyl-thiazole-4-carboxylic acid with (R)-6-methyl-imidazo[2,1-b]-thiazole-5-carboxylic acid-piperidin-3-ylamide.

reactant | 5-(2-chloro-phenyl)-2-methyl-thiazole-4-carboxylic acid | ClC1=C(C=CC=C1)C1=C(N=C(S1)C)C(=O)O | C11H8ClNO2S
reactant | (R)-6-methyl-imidazo[2,1-b]-thiazole-5-carboxylic acid-piperidin-3-ylamide | N1C[C@@H](CCC1)NC(=O)C1=C(N=C2SC=CN21)C | C12H16N4OS
product | (R)-6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid{1-[5-(2-chloro-phenyl)-2-methyl-thiazole-4-carbonyl]-piperidin-3-yl}-amide | ClC1=C(C=CC=C1)C1=C(N=C(S1)C)C(=O)N1C[C@@H](CCC1)NC(=O)C1=C(N=C2SC=CN21)C | C23H22ClN5O2S2
